US05939094
An apomorphine transdermal patch formulation was prepared by adding 1 milliliter of a ethanolic solution of 20 mg/ml apomorphine HCl and 2.6 mg/ml glutathione to 2 g of polydimethylsiloxane 200 and mixing until the mixture congealed.

reactant | apomorphine HCl | CN1CCC=2C=CC=C3C2[C@H]1CC4=C3C(=C(C=C4)O)O.Cl
reactant | glutathione | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | polydimethylsiloxane | 2 g | C[Si](O[*:2])(C)[*:1]
product | apomorphine | CN1CCC=2C=CC=C3C2[C@H]1CC4=C3C(=C(C=C4)O)O | C17H17NO2
